US09284291B2
N-benzyl-1-[3-(dimethylamino)propyl]-1-(4-fluorophenyl)-1,3-dihydro-2-benzofuran-5-carboximidamide
Using 250 mg of 1-[3-(dimethylamino)propyl]-1-(4-fluorophenyl)-1,3-dihydro-2-benzofuran-5-carbonitrile hydrobromide (citalopram HBr) and benzylamine (1.2 equiv) gave, after heating at 80° C. for 14 h, title product (72 mg, 19% yield) as a white solid.

reactant | 1-[3-(dimethylamino)propyl]-1-(4-fluorophenyl)-1,3-dihydro-2-benzofuran-5-carbonitrile hydrobromide | 250 mg | Br.CN(CCCC1(OCC2=C1C=CC(=C2)C#N)C2=CC=C(C=C2)F)C
reactant | benzylamine | 1.2 equiv | C(C1=CC=CC=C1)N | C7H9N
product | N-benzyl-1-[3-(dimethylamino)propyl]-1-(4-fluorophenyl)-1,3-dihydro-2-benzofuran-5-carboximidamide | 72 mg, 19% yield | C(C1=CC=CC=C1)NC(=N)C1=CC2=C(C(OC2)(C2=CC=C(C=C2)F)CCCN(C)C)C=C1 | C27H30FN3O
